US08349880B2
Step K (1): [1,1′-Bis(diphenylphosphino)ferrocene]-dichloropalladium(II) (1:1 complex with dichloromethane, 7.0 g, 8.62 mmol) was added to a degassed mixture of 1-bromo-2-methoxy-4-nitrobenzene (20 g, 86.2 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (23.3 g, 112 mmol), and potassium carbonate (23.6 g, 122 mmol) in DMF (200 mL). The mixture was heated at 150° C. for 18 h. The crude reaction mixture was cooled to rt and filtered through diatomaceous earth (Celite®). The reaction mixture was diluted with EtOAc (200 mL) and washed with water and then brine. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified using silica gel column chromatography (EtOAc/hexane) to afford 4-(2-methoxy-4-nitrophenyl)-1-methyl-1H-pyrazole (14 g, 70% yield).

reactant | 1-bromo-2-methoxy-4-nitrobenzene | 86.2 mmol, 20 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 112 mmol, 23.3 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium carbonate | 122 mmol, 23.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | 8.62 mmol, 7.0 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-(2-methoxy-4-nitrophenyl)-1-methyl-1H-pyrazole | 14 g, 70% yield | COC1=C(C=CC(=C1)[N+](=O)[O-])C=1C=NN(C1)C | C11H11N3O3
